US04537895
Preparation of 8-butoxycarbonyl-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline
A solution of 2.4 g (0.01 mole) of 8-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline and 100 ml of anhydrous benzene is admixed with a solution of 1.4 g (0.012 mole) of butyl chloroformate and 10 ml of anhydrous benzene and the reaction mixture is heated to boiling for 2 hours. After cooling the mixture is diluted with 50 ml of icecold water, the pH is adjusted to 9 by adding a concentrated ammonium hydroxide solution, the benzene phase is separated and extracted twice with 20 ml of benzene each, dried over anhydrous sodium sulfate and evaporated in vacuo. Thus 3.6 g of an orange oil are obtained. The product is recrystallized twice from ethanol to give 1.8 g of the title compound, yield 52.9%. Mp: 106° C. (white powder)

reactant | 8-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 0.01 mole, 2.4 g | NC=1C=CC=C2C(CN(CC12)C)C1=CC=CC=C1 | C16H18N2
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | butyl chloroformate | 0.012 mole, 1.4 g | ClC(=O)OCCCC | C5H9ClO2
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 8-butoxycarbonyl-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 3.6 g, yield 52.9% | C(CCC)OC(=O)C=1C=CC=C2C(CN(C(C12)N)C)C1=CC=CC=C1 | C21H26N2O2
